US09079866B2
4′-(5-Aminopyrazin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-carboxamide
The title compound was prepared using methods analogous to those described in Example 369 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-bromo-N-(tert-butyl)benzamide. MS (ESI): mass calcd. for C21H21FN4O, 364.17; m/z found, 365.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.55-8.50 (m, 1H), 8.13 (d, J=1.4, 1H), 8.04-7.95 (m, 1H), 7.64-7.58 (m, 1H), 7.51-7.44 (m, 1H), 7.43-7.37 (m, 2H), 7.36-7.31 (m, 1H), 7.29-7.22 (m, 1H), 5.69 (s, 1H), 5.45 (s, 2H), 2.65-2.54 (m, 1H), 1.24 (m, 9H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-(tert-butyl)benzamide | BrC1=C(C(=O)NC(C)(C)C)C=CC=C1 | C11H14BrNO
product | 4′-(5-Aminopyrazin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-carboxamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)NC(C)(C)C)F | C21H21FN4O
